### PR TITLE
feat(MerkleTree/Inductive): reduce extractability to birthday

### PR DESCRIPTION
**Pull request by BoltonBailey**
This PR finishes the extractability proof (for the inductively structured binary Merkle trees with single-branch opening proofs). 

This follows the development of the SNARGs book for the definitions, but diverges somewhat in the proof, and proves a simpler but slightly looser soundness error bound. 

I made most of the initial proof with Numina's [Fuse](https://fuse.projectnumina.ai/) app and Claude Code, IIRC it was around 1300 lines to start. At this point I have cleaned up the proof a lot from where it was at initially, and tried to create abstractions to express theorems more succinctly. I would be open to further golfing ideas, but I would also be open to just merging this and trying to do automated refactors later.

### CODE REVIEW

File: VCVio/CryptoFoundations/MerkleTree/Inductive/Extractability.lean [hunk 1]
```diff
@@ -0,0 +1,1204 @@
...
+    simp only [extractor]
+    rw [optionPopulateDown_internal, h_children]
+    exact hne
+
+/-- **Self-log fixed point.** The two log layers produced by
+`oa.withQueryLog.withQueryLog` agree on every support point: simulating the
+logging oracle over `oa.withQueryLog` records exactly the queries that the
+inner `withQueryLog` already recorded, since `withQueryLog` does not add new
+queries to the underlying `OracleComp`. -/
+theorem withQueryLog_self_log_eq
```
Comment (alexanderlhicks) [inline VCVio/CryptoFoundations/MerkleTree/Inductive/Extractability.lean]: duplicate of https://github.com/Verified-zkEVM/VCV-io/pull/365/changes#diff-e26c853d736c3acbd4f654d8935bf19b94f2fdc55c436fab15df8c1a77a475dcR444 ?

File: VCVio/CryptoFoundations/MerkleTree/Inductive/Extractability.lean [hunk 2]
```diff
@@ -0,0 +1,1204 @@
...
+
+## References
+
+* [Building Cryptographic Proofs from Hash Functions by Chiesa and Yogev](https://snargsbook.org/), Lemma 18.5.1.
+
+-/
+
+open scoped NNReal
+
+section ToVCV
```
Comment (alexanderlhicks) [inline VCVio/CryptoFoundations/MerkleTree/Inductive/Extractability.lean]: It's in VCV now 😄

File: VCVio/CryptoFoundations/MerkleTree/Inductive/Extractability.lean (hunk 1 above)
Comment (BoltonBailey) [reply VCVio/CryptoFoundations/MerkleTree/Inductive/Extractability.lean]: I have now moved this to another file and done some more /cleanup passes, I think this must now be fixed?

**Review by alexanderlhicks — APPROVED** [review]
